US06156884
Preparation of Methyl 4-[(6-Aminohexanoylamino)methyl]-2,6-dihydroxybenzoate Hydrochloride Methyl (N-tert-Butoxycarbonyl-6-aminohexanoyl)aminomethyl-2,6-dihydroxybenzoate
Methyl 4-(aminomethyl)-2,6-dihydroxybenzoate hydrochloride (1.50 grams, 6.4 mmoles) was suspended in anhydrous N,N-dimethylformamide (25 mL), and N,N-diisopropylethylamine (2.2 mL, 12.8 mmoles) was added, followed by N-tert-butoxycarbonyl-6-aminohexanoic acid succinimidyl ester (2.10 grams, 6.4 mmoles). The mixture was stirred under dry nitrogen for 4 hours, during which time all solids dissolved. The solvent was then evaporated to leave a light brown syrup, which was partitioned between ethyl acetate (70 mL) and 1 M aqueous hydrochloric acid (50 mL). The layers were separated, and the ethyl acetate solution was washed with saturated aqueous sodium bicarbonate (50 mL) and saturated aqueous sodium chloride (50 mL). The ethyl acetate solution was dried over anhydrous sodium sulfate, filtered, and evaporated to an amorphous off-white solid.

reactant | Methyl 4-(aminomethyl)-2,6-dihydroxybenzoate hydrochloride | 6.4 mmoles, 1.50 grams | Cl.NCC1=CC(=C(C(=O)OC)C(=C1)O)O
reactant | N,N-diisopropylethylamine | 12.8 mmoles, 2.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-tert-butoxycarbonyl-6-aminohexanoic acid succinimidyl ester | 6.4 mmoles, 2.10 grams | C1(CCC(N1OC(CCCCCNC(=O)OC(C)(C)C)=O)=O)=O | C15H24N2O6
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | Methyl 4-[(6-Aminohexanoylamino)methyl]-2,6-dihydroxybenzoate Hydrochloride | Cl.NCCCCCC(=O)NCC1=CC(=C(C(=O)OC)C(=C1)O)O | InChI=1S/C15H22N2O5.ClH/c1-22-15(21)14-11(18)7-10(8-12(14)19)9-17-13(20)5-3-2-4-6-16;/h7-8,18-19H,2-6,9,16H2,1H3,(H,17,20);1H
